US05639902
METHYL 3,3-(ETHYLENEDIOXY)CYCLOHEXANECARBOXYLATE
A solution composed of 30 g (192 mmol) of crude methyl 3-oxocyclohexanecarboxylate and 430 cm3 of toluene is introduced into a one-liter three-necked flask equipped with a Dean and Stark apparatus, and 14.3 g (230 mmol) of ethylene glycol are then added with 814 mg (4.3 mmol) of para-toluenesulfonic acid monohydrate. The mixture is heated to reflux, the toluene-water azeotrope forms instantaneously and, after 40 min, no further refluxing of azeotrope (95° C.) takes place. The mixture is maintained for 6 h under reflux of the toluene (110° C.). After cooling, sodium hydrogen carbonate solution is added and the solution is then washed with saturated sodium chloride solution and dried over sodium sulfate. After concentration, 39 g of a yellow oil are obtained, which product is either distilled or chromatographed on a column of 215 g of silica (eluant: cyclo-hexane/ether, 98:2).

reactant | methyl 3-oxocyclohexanecarboxylate | 192 mmol, 30 g | O=C1CC(CCC1)C(=O)OC | C8H12O3
reactant | ethylene glycol | 230 mmol, 14.3 g | C(CO)O | C2H6O2
reactant | para-toluenesulfonic acid monohydrate | 4.3 mmol, 814 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene water | C1(=CC=CC=C1)C.O
solvent | toluene | 430 cm3 | C1(=CC=CC=C1)C | C7H8
product | METHYL 3,3-(ETHYLENEDIOXY)CYCLOHEXANECARBOXYLATE | C1OC2(CC(CCC2)C(=O)OC)OC1 | C10H16O4
